US08492401B2
A solution of tert-butyl 2-benzamido-3-oxobutanoate (842 mg, 3.04 mmol) and 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (Lawesson's reagent) (1.88 g 6.07 mmol) in THF (20 ml) was heated at reflux for 6 h. The mixture was evaporated in vacuo and purified by flash chromatography to give tert-butyl 5-methyl-2-phenylthiazole-4-carboxylate as a yellow solid (520 mg, 62% yield).

reactant | tert-butyl 2-benzamido-3-oxobutanoate | 3.04 mmol, 842 mg | C(C1=CC=CC=C1)(=O)NC(C(=O)OC(C)(C)C)C(C)=O | C15H19NO4
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 6.07 mmol, 1.88 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl 5-methyl-2-phenylthiazole-4-carboxylate | 520 mg, 62% yield | CC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C15H17NO2S
